US06762205B1
The procedure of Preparation Example 2 was repeated, except that 224 mg of (2Z)-2,3-bis(4-methoxyphenyl)prop-2-enenitrile was used in place of 4′-methoxy-2-biphenylacetonitrile, and 1,2-dichloroethane was used in place of methylene chloride. The resulting crude product was purified by TLC (using a 3:1 mixture of chloroform and acetone as the developing solvent) to obtain 130 mg of (2Z)-2,3-bis(4-hydroxyphenyl)-prop-2-enenitrile.

reactant | (2Z)-2,3-bis(4-methoxyphenyl)prop-2-enenitrile | 224 mg | COC1=CC=C(C=C1)/C(/C#N)=C/C1=CC=C(C=C1)OC | C17H15NO2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (2Z)-2,3-bis(4-hydroxyphenyl)-prop-2-enenitrile | 130 mg | OC1=CC=C(C=C1)/C(/C#N)=C/C1=CC=C(C=C1)O | C15H11NO2
